US06809090B2
7.1) 2-(4-nitrophenyl)-ethyl [4-(phenylamino)phenyl]-carbamate
1.18 g (3.9 mmol) of triphosgene is dissolved in 15 ml of dichloromethane in a 250 ml flask, under argon,. Using a motorized syringe, a solution of 2 g (12 mmol) of 4-nitrophenylethanol and 1.7 ml (13 mmol) of N,N-dimethylaniline in 40 ml of dichloromethane is added over 1 hour. The reaction mixture is agitated for a few minutes at 20° C. before adding in one go a solution of 2.2 g (12 mmol) of 4-aminodiphenylamine and 1.7 ml (13 mmol) of N,N-dimethylaniline in 40 ml of dichloromethane. After agitation for one hour at 20° C., the contents of the flask are poured into 100 ml of water. The mixture is diluted with 100 ml of dichloromethane and agitated. The organic phase is decanted, dried over magnesium sulphate, filtered and evaporated under vacuum. The solid obtained is taken up in ethyl ether, triturated and filtered. After drying, a greenish powder is obtained with a yield of 22%. Melting point: 146.4-148° C.

reactant | triphosgene | 3.9 mmol, 1.18 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-nitrophenylethanol | 12 mmol, 2 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C)O | C8H9NO3
reactant | N,N-dimethylaniline | 13 mmol, 1.7 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | 4-aminodiphenylamine | 12 mmol, 2.2 g | C1=CC=C(C=C1)NC2=CC=C(C=C2)N | C12H12N2
reactant | N,N-dimethylaniline | 13 mmol, 1.7 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 2-(4-nitrophenyl)-ethyl [4-(phenylamino)phenyl]-carbamate | yield of 22% | C1(=CC=CC=C1)NC1=CC=C(C=C1)NC(OCCC1=CC=C(C=C1)[N+](=O)[O-])=O | C21H19N3O4
